US09302996B2
In tetrahydrofuran (2.5 mL) was dissolved 2,2-dimethyl-3-(4-{5-[5-(trifluoromethyl)-1H-imidazol-2-yl]pyridin-2-yl}phenoxy)propanoic acid (250 mg), 10M aqueous sodium hydroxide solution (65 μL) was added to the solution dividing into several times, and the mixture was stirred at room temperature overnight. The precipitate was collected by filtration, washed with tetrahydrofuran (1 mL), and dried at 40° C. under reduced pressure to obtain sodium 2,2-dimethyl-3-(4-{5-[5-(trifluoromethyl)-1H-imidazol-2-yl]pyridin-2-yl}phenoxy)propanoate (216 mg).

reactant | 2,2-dimethyl-3-(4-{5-[5-(trifluoromethyl)-1H-imidazol-2-yl]pyridin-2-yl}phenoxy)propanoic acid | 250 mg | CC(C(=O)O)(COC1=CC=C(C=C1)C1=NC=C(C=C1)C=1NC(=CN1)C(F)(F)F)C | C20H18F3N3O3
reactant | sodium hydroxide | 10M, 65 μL | [OH-].[Na+]
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | sodium 2,2-dimethyl-3-(4-{5-[5-(trifluoromethyl)-1H-imidazol-2-yl]pyridin-2-yl}phenoxy)propanoate | 216 mg | CC(C(=O)[O-])(COC1=CC=C(C=C1)C1=NC=C(C=C1)C=1NC(=CN1)C(F)(F)F)C.[Na+] | InChI=1S/C20H18F3N3O3.Na/c1-19(2,18(27)28)11-29-14-6-3-12(4-7-14)15-8-5-13(9-24-15)17-25-10-16(26-17)20(21,22)23;/h3-10H,11H2,1-2H3,(H,25,26)(H,27,28);/q;+1/p-1
